US07514452B2
A mixture of methyl 3-carboxy-4-hydroxybenzoate (3.92 g), N,N-dimethylformamide di-tert-butyl acetal (19.19 ml) and toluene (50 ml) was heated at reflux for 1 hour. After cooling, the reaction solution was diluted with toluene, washed with 10% citric acid solution and dried over MgSO4. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20), thereby giving 4.00 g of methyl 3-tert-butyloxycarbonyl-4-hydroxy-benzoate.

reactant | methyl 3-carboxy-4-hydroxybenzoate | 3.92 g | C(=O)(O)C=1C=C(C(=O)OC)C=CC1O | C9H8O5
reactant | N,N-dimethylformamide di-tert-butyl acetal | 19.19 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-tert-butyloxycarbonyl-4-hydroxy-benzoate | 4.00 g | C(C)(C)(C)OC(=O)C=1C=C(C(=O)OC)C=CC1O | C13H16O5
